US05750767
G. Benz[f]indene
A solution of 8.6 g of benz[f]indan-1-ol in 250 mL of 10% H2SO4 was refluxed for 24 h. After cooling to room temperature the reaction mixture was extracted with three 150-mL portions of a mixture of benzene and hexane (1:2). The extracts were washed three times with 100-mL portions of water, dried (MgSO4), and evaporated to give 7.6 g (98%) of a colorless solid, mp 160°-163° C. Recrystallization from 340 mL of 95% ethanol gave 6.6 g (85%) of the hydrocarbon as colorless crystals: mp 163°-164° C.

reactant | benz[f]indan-1-ol | 8.6 g | C1(CCC=2C=C3C(=CC12)C=CC=C3)O | C13H12O
solvent | H2SO4 | 250 mL | OS(=O)(=O)O | H2O4S
product | Benz[f]indene | 7.6 g, 98% | C1=CCC=2C=C3C(=CC12)C=CC=C3 | C13H10
